US03931239
To a stirred solution of 6,7-dimethylbenzofuran-2-carboxylic acid (9 g.) and isovaleryl chloride (7.5 g.) in dichloromethane (100 ml.) at 5°C. is added aluminum trichloride (20 g.) in portions over a 1 hour period. The reaction mixture is stirred at 25°C. for 18 hours, poured into a mixture of ice (300 g.) and hydrochloric acid (50 ml.) to afford 5-isovaleryl-6,7-dimethylbenzofuran-2-carboxylic acid.

reactant | 6,7-dimethylbenzofuran-2-carboxylic acid | 9 g | CC1=C(C2=C(C=C(O2)C(=O)O)C=C1)C | C11H10O3
reactant | isovaleryl chloride | 7.5 g | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | aluminum trichloride | 20 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-isovaleryl-6,7-dimethylbenzofuran-2-carboxylic acid | C(CC(C)C)(=O)C=1C(=C(C2=C(C=C(O2)C(=O)O)C1)C)C | C16H18O4
